US06960586B2
Production of 1-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthyl trifluoromethanesulfonate
1-Methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthol (22.3 g) was dissolved in pyridine (100 mL) and cooled to 0° C. Then, trifluoromethanesulfonic anhydride (9.3 mL) was slowly added dropwise. The mixture was stirred under ice-cooling for 30 min. and then at room temperature for 1 hr., the reaction mixture was diluted with water (1.0 L) and the supernatant was removed. The residue was dissolved in ethyl acetate, washed successively with 10% citric acid and saturated aqueous sodium hydrogen carbonate and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was suspended in hexane and filtrated to give the title compound (26.9 g) as colorless crystals.

reactant | 1-Methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthol | 22.3 g | CC1=C(C=CC2=CC(=CC=C12)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C34H26N2O2
reactant | trifluoromethanesulfonic anhydride | 9.3 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 1.0 L | O | H2O
product | 1-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthyl trifluoromethanesulfonate | 26.9 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)(F)F | C35H25F3N2O4S
